US09193723B2
propan-2-yl 4-{5-[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]thiophen-2-yl}piperidine-1-carboxylate
To a suspension N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(piperidin-4-yl)thiophene-2-carboxamide (0.103 g, 0.249 mmol) in dichloromethane (2 ml) was added N-methylmorpholine (0.110 ml, 0.997 mmol) followed by isopropylchloroformate (0.374 ml, 0.374 mmol). A second portion of isopropylchloroformate (0.4 ml) was added and after 1 hour the mixture was directly purified by normal phase chromatography to give the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.05 (t, J=6.0 Hz, 1H), 8.51 (d, J=7.0 Hz, 1H), 7.92 (s, 1H), 7.68 (d, J=3.8 Hz, 1H), 7.56 (d, J=1.2 Hz, 1H), 7.40 (d, J=1.4 Hz, 1H), 6.96 (d, J=3.8 Hz, 1H), 6.88 (dd, J=7.0, 1.7 Hz, 1H), 4.78 (hept, J=6.2 Hz, 1H), 4.47 (d, J=5.9 Hz, 2H), 4.05 (d, J=12.9 Hz, 2H), 3.10-2.97 (m, 1H), 2.98-2.81 (m, 2H), 2.01-1.88 (m, 2H), 1.57-1.38 (m, 2H), 1.19 (d, J=6.2 Hz, 6H); MS (ESI(+)) m/e 427 (M+H)+.

reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(piperidin-4-yl)thiophene-2-carboxamide | 0.249 mmol, 0.103 g | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)C2CCNCC2 | C18H20N4OS
reactant | N-methylmorpholine | 0.997 mmol, 0.110 ml | CN1CCOCC1 | C5H11NO
reactant | isopropylchloroformate | 0.374 mmol, 0.374 ml | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | isopropylchloroformate | 0.4 ml | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | propan-2-yl 4-{5-[(imidazo[1,2-a]pyridin-7-ylmethyl)carbamoyl]thiophen-2-yl}piperidine-1-carboxylate | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(S2)C2CCN(CC2)C(=O)OC(C)C | C22H26N4O3S
